US06060484
N-(2-Chlorophenyl-N'-(2,2-diphenylethyl)-thiourea
The compound was prepared substantially in accordance with the procedure detailed in Example 1, using 2,2-diphenylethylamine (1.61 g, 8.1 mmol) and 2-chlorophenyl isothiocyanate (1.1 ml, 8.2 mmol) in 30 ml of DMF. The crude material was purified by recrystallization (hexanes/EtOAc).

reactant | 2,2-diphenylethylamine | 8.1 mmol, 1.61 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
reactant | 2-chlorophenyl isothiocyanate | 8.2 mmol, 1.1 ml | ClC1=C(C=CC=C1)N=C=S | C7H4ClNS
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-Chlorophenyl-N'-(2,2-diphenylethyl)-thiourea | ClC1=C(C=CC=C1)NC(=S)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19ClN2S
